US08426447B2
To a slurry of sodium hydride (60% dispersion) (21.74 g, 543 mmol) in DMF (351 mL, 175 mmol) at 0° C. was added 4-bromophenol (60.7 g, 351 mmol) over the course of 5 minutes. Stirred at 0° C. for two minutes then removed from the ice bath and stirred for an additional 5 minutes at room temperature. Added 2-fluoro-5-methoxynicotinic acid (30 g, 175 mmol) portionwise over 10 minutes and heated the resulting slurry at 140° C. After cooling to room temperature the mixture was then poured onto 1 kg of ice and was quenched with acetic acid (50.2 mL, 877 mmol) and then 75 mL of 6 N HCl. Stirred vigorously for 1 hour, leading to the formation of a red slurry containing a very fine white precipitate. Filtered the slurry to provide 2-(4-bromophenoxy)-5-methoxynicotinic acid.

reactant | sodium hydride | 543 mmol, 21.74 g | [H-].[Na+]
reactant | DMF | 175 mmol, 351 mL | CN(C)C=O | C3H7NO
reactant | 4-bromophenol | 351 mmol, 60.7 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 2-fluoro-5-methoxynicotinic acid | 175 mmol, 30 g | FC1=C(C(=O)O)C=C(C=N1)OC | C7H6FNO3
reactant | acetic acid | 877 mmol, 50.2 mL | C(C)(=O)O | C2H4O2
reactant | HCl | 6 N, 75 mL | Cl | ClH
product | 2-(4-bromophenoxy)-5-methoxynicotinic acid | BrC1=CC=C(OC2=C(C(=O)O)C=C(C=N2)OC)C=C1 | C13H10BrNO4
